US04399134
A mixture of 3 g of 9-fluoro-8-bromo-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid, 5 g of 4-piperidineethylene acetate and 30 ml of hexamethylphosphoric triamide was heated at 160° C. on an oil bath for 6 hours. After completion of reaction, hexamethylphosphoric triamide was distilled off under reduced pressure, and to the residue was added ethyl acetate to precipitate crystals which then were recrystallized from dimethylformamide containing a small amount of dilute hydrochloric acid to give 0.87 g of 9-fluoro-8-(4-oxo-1-piperidyl)-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid. m.p. not lower than 300° C., white rhombic crystals.

reactant | 9-fluoro-8-bromo-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 3 g | FC1=C(C=2CCC(N3C=C(C(C(C23)=C1)=O)C(=O)O)C)Br | C14H11BrFNO3
reactant | acetate | 5 g | C(C)(=O)[O-]
solvent | hexamethylphosphoric triamide | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | hexamethylphosphoric triamide | 30 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 9-fluoro-8-(4-oxo-1-piperidyl)-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 0.87 g | FC1=C(C=2CCC(N3C=C(C(C(C23)=C1)=O)C(=O)O)C)N1CCC(CC1)=O | C19H19FN2O4
